US08471005B2
Into a 8-dram vial, 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzoic acid ethyl ester (0.250 g, 0.548 mmol), Lithium hydroxide (0.0262 g, 1.10 mmol), Methanol (15 mg), and Water (3.0 mL) were added. The reaction mixture was stirred at room temperature overnight. The solvent was removed under vacuum. The solid was acidified with 1N HCl. The reaction was partitioned DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzoic acid as a solid (180 mg, 76%). The solid was used as is without further purification.

reactant | 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzoic acid ethyl ester | 0.548 mmol, 0.250 g | C(C)OC(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C26H28N6O2
reactant | Lithium hydroxide | 1.10 mmol, 0.0262 g | [OH-].[Li+]
reactant | Methanol | 15 mg | CO | CH4O
solvent | Water | 3.0 mL | O | H2O
product | 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzoic acid | 180 mg, 76% | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C(=O)O)C=CC=C2 | C24H24N6O2
